US08133882B2
To 557 mg of 3-(4-bromobutyl)-7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoroquinolin-4(1H)-one was added 5 ml of triethylphosphite, followed by stirring at 160° C. for 4 hours. The reaction mixture was concentrated under a reduced pressure, and the resulting residue was purified by a column chromatography to obtain 240 mg of diethyl {4-[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]butyl}phosphonate.

reactant | 3-(4-bromobutyl)-7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoroquinolin-4(1H)-one | 557 mg | BrCCCCC1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C(CC)CC | C24H34BrFN2O
reactant | triethylphosphite | 5 ml | C(C)OP(OCC)OCC | C6H15O3P
product | diethyl {4-[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]butyl}phosphonate | 240 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C(CC)CC)CCCCP(OCC)(OCC)=O)=O)F | C28H44FN2O4P
